US07915443B2
methyl 3-[N-({6-amino-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-methylsulfonimidoyl]benzoate
To a solution of 6-amino-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]nicotinic acid (68 mg, 0.18 mmol), methyl 3-(S-methylsulfonimidoyl)benzoate (42 mg, 0.198 mmol), and N,N-diisopropylethylamine (0.063 ml, 0.36 mmol) in 1.5 ml DMF at room temperature was added benzotriazole-1-yl-oxy-tris-(dimethylamino)-phosphoniumhexafluorophosphate (88 mg, 0.198 mmol). The reaction was heated at 60° C. for 3.5 hours, then at 48° C. for 16.5 hours. The mixture was partitioned between EtOAc and dilute brine. The EtOAc layer was washed with NaHCO3 solution, dilute HCl, NaHCO3 solution, brine, dried with anhydrous Na2SO4 and rotary evaporated. The dark foam was chromatographed eluting with hexane/acetone yielding light pink solid (38 mg, 37%).

reactant | 6-amino-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]nicotinic acid | 0.18 mmol, 68 mg | NC1=NC=C(C(=O)O)C=C1C#CC1=CC(=CC=C1)NC(=O)C1=CC(=NN1C)C | C20H17N5O3
reactant | methyl 3-(S-methylsulfonimidoyl)benzoate | 0.198 mmol, 42 mg | CS(=O)(=N)C=1C=C(C(=O)OC)C=CC1 | C9H11NO3S
reactant | N,N-diisopropylethylamine | 0.36 mmol, 0.063 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzotriazole-1-yl-oxy-tris-(dimethylamino)-phosphoniumhexafluorophosphate | 0.198 mmol, 88 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | methyl 3-[N-({6-amino-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]pyridin-3-yl}carbonyl)-S-methylsulfonimidoyl]benzoate | NC1=C(C=C(C=N1)C(=O)N=S(=O)(C)C=1C=C(C(=O)OC)C=CC1)C#CC1=CC(=CC=C1)NC(=O)C1=CC(=NN1C)C | C29H26N6O5S
